US06960601B2
To a solution of ethyl 4-({[2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl]carbonyl}amino)-1-piperidinecarboxylate (Table entry 221) (0.595 g, 1.221 mmol) in CH2Cl2 (10 mL) was added TMSI (0.176 mL, 2.7 mmol). The mixture was heated at reflux for 3 h, diluted by methanol, and concentrated. The residue was dissolved in methanol and NaOMe (0.62 mmol) was added. The mixture was concentrated and purified by flash chromatography (2M NH3 in methanol:EtOAc=15:85) to afford the product 2-(2-chlorophenyl)-1-(4-chlorophenyl)-N-(4-piperidinyl)-1H-imidazole-4-carboxamide (180 mg, 36% yield): LC-MS m/z 415.3 (MH+), retention time 2.22 min (method 1); Rf=0.25 (1:1 EtOAc/2M NH3 in MeOH). 1H NMR (300 MHz, CDCl3) δ 1.35-1.51 (2H, m), 1.91-2.15 (3H, br), 2.63-2.78 (2H, m), 3.03-3.09 (2H, m), 3.97-4.15 (1H, m), 6.96-7.52 (8H, m), 7.81 (1H, s).

reactant | ethyl 4-({[2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl]carbonyl}amino)-1-piperidinecarboxylate | 1.221 mmol, 0.595 g | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)NC1CCN(CC1)C(=O)OCC)C1=CC=C(C=C1)Cl | C24H24Cl2N4O3
reactant | TMSI | 2.7 mmol, 0.176 mL | [Si](C)(C)(C)I | C3H9ISi
reactant | methanol | CO | CH4O
reactant | NaOMe | 0.62 mmol | C[O-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-chlorophenyl)-1-(4-chlorophenyl)-N-(4-piperidinyl)-1H-imidazole-4-carboxamide | 180 mg, 36% yield | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)NC1CCNCC1)C1=CC=C(C=C1)Cl | C21H20Cl2N4O
